US07101892B2
(5-Bromo-2-methylpentane-2-sulfonyl)benzene
A solution of n-butyllithium in cyclohexanes (1.82M, 18 ml, 32.8 mmol) was added dropwise to a stirred solution of phenyl i-propyl sulphone (5.55 g, 30.1 mmol) in tetrahydrofuran (60 ml) at −78° C. The mixture was stirred for 30 min. and 1,3-dibromopropane (6 ml, 58.7 mmol) was added via syringe over 30 seconds. The mixture was allowed to warm to 0° C. over 3 hours, then quenched with satd. aqueous NH4Cl and extracted into 1:1 mixture of i-hexane-diethyl ether. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified on silica (i-hexane-diethyl ether) to give the title product (5.7 g, 62%) as a white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | phenyl i-propyl sulphone | 30.1 mmol, 5.55 g | C(C)(C)S(=O)(=O)C1=CC=CC=C1 | C9H12O2S
reactant | 1,3-dibromopropane | 58.7 mmol, 6 ml | BrCCCBr | C3H6Br2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (5-Bromo-2-methylpentane-2-sulfonyl)benzene | 5.7 g, 62% | BrCCCC(C)(S(=O)(=O)C1=CC=CC=C1)C | C12H17BrO2S
